US08247595B2
To a solution of 1.5 g of 4,4,4-trifluoro-2-butenyl p-toluenesulfonate and 1.2 g of 2-(3,3,3-trifluoropropylsulfonyl)propionitrile in 30 ml of tetrahydrofuran was added 0.2 g of sodium hydride (60% in oil) at room temperature. The reaction mixture was stirred at the same temperature for 2 days. To the reaction mixture was added 10% hydrochloric acid and then extracted with ethyl acetate. The organic layer was washed with a saturated sodium chloride aqueous solution, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The obtained residue was subjected to silica gel chromatography to obtain 0.80 g of 6,6,6-trifluoro-2-methyl-2-(3,3,3-trifluoropropylsulfonyl)-4-hexenenitrile (hereinafter referred to as the present compound (34)).

reactant | 4,4,4-trifluoro-2-butenyl p-toluenesulfonate | 1.5 g | C1(=CC=C(C=C1)S(=O)(=O)OCC=CC(F)(F)F)C | C11H11F3O3S
reactant | 2-(3,3,3-trifluoropropylsulfonyl)propionitrile | 1.2 g | FC(CCS(=O)(=O)C(C#N)C)(F)F | C6H8F3NO2S
reactant | sodium hydride | 0.2 g | [H-].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 6,6,6-trifluoro-2-methyl-2-(3,3,3-trifluoropropylsulfonyl)-4-hexenenitrile | 0.80 g | FC(C=CCC(C#N)(S(=O)(=O)CCC(F)(F)F)C)(F)F | C10H11F6NO2S
